US06992087B2
3-chloro-2,5-dicyclopropylpyrazine
Following the procedure for the preparation of 3-chloro-2,5-diethylpyrazine but substituting 3,6-dicyclopropylpiperazine-2,5-dione and making non-critical variations provided the title compound as an oil: 1H NMR (CDCl3) δ 0.99-1.13, 1.94-2.03, 2.38-2.47; MS (ESI+) for C10H11N2 m/z 195 (M+H)+.

reactant | 3-chloro-2,5-diethylpyrazine | ClC=1C(=NC=C(N1)CC)CC | C8H11ClN2
reactant | 3,6-dicyclopropylpiperazine-2,5-dione | C1(CC1)C1C(NC(C(N1)=O)C1CC1)=O | C10H14N2O2
product | 3-chloro-2,5-dicyclopropylpyrazine | ClC=1C(=NC=C(N1)C1CC1)C1CC1 | C10H11ClN2
